US04895834
H2N-CH2CH(OH)CH2SCH(CH3)2.HCl
BOC-NHCH2CH(OH)CH2SCH(CH3)2 (3.74 g, 0.015 mole) was dissolved in 75 ml CH2Cl2 and occasionally purged with HCl gas over two hours. The solvent was removed in vacuo, and the residue was triturated with Et2O. The solvent was decanted and the residue was stripped to a foam, 2.83 g. IR, NMR, and mass spectral analysis confirmed the structure.

reactant | BOC-NHCH2CH(OH)CH2SCH(CH3)2 | 0.015 mole, 3.74 g | C(=O)(OC(C)(C)C)NCC(O)CSC(C)C | C11H23NO3S
reactant | CH2Cl2 | 75 ml | C(Cl)Cl | CH2Cl2
product | H2N-CH2CH(OH)CH2SCH(CH3)2.HCl | NCC(O)CSC(C)C.Cl | InChI=1S/C6H15NOS.ClH/c1-5(2)9-4-6(8)3-7;/h5-6,8H,3-4,7H2,1-2H3;1H
